US06518423B1
8-Chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
Into 250 ml of a solution of 26.9 g of 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine in methylene chloride was dropped 50 ml of trifluoroacetic acid at 0° C. After reacting at room temperature for 12 hours, the reaction mixture was cooled to 0° C. and neutralized by adding an aqueous solution of sodium hydrogencarbonate. The crystals thus precipitated were taken up by filtration and washed successively with water and diethyl ether to thereby give 19.1 g of the title compound as yellow crystals.

reactant | 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 26.9 g | ClCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H12ClN3OS
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-Chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 19.1 g | ClCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H8ClN3S
